US09315521B2
2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-4-methylpyrimidine
A mixture of 4-(bromomethyl)-3,5-dichloropyridine hydrobromide (1.3 g, 5.0 mmol), 4-methylpyrimidine-2-thiol hydrochloride (543 mg, 3.3 mmol), and triethylamine (1.8 mL, 12.9 mmol) in absolute EtOH (35 mL) was stirred at room temperature overnight. The mixture was evaporated, co-evaporated with EtOAc (10 mL), and dried in vacuo. The solid residue was treated with water (75 mL). The mixture was extracted with 50% ethyl acetate/Et2O (75 mL). The organic extract was extracted with brine (2×75 mL), dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-4% MeOH/CH2Cl2), affording the title compound (800 mg, 85% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.45 (s, 3H), 4.70 (s, 2H), 7.17 (d, 1H, J=5.1 Hz), 8.54 (d, 1H, J=5.1 Hz), 8.67 (s, 2H); M+287.

reactant | 4-(bromomethyl)-3,5-dichloropyridine hydrobromide | 5.0 mmol, 1.3 g | Br.BrCC1=C(C=NC=C1Cl)Cl
reactant | 4-methylpyrimidine-2-thiol hydrochloride | 3.3 mmol, 543 mg | Cl.CC1=NC(=NC=C1)S
reactant | triethylamine | 12.9 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 35 mL | CCO | C2H6O
product | 2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-4-methylpyrimidine | 800 mg, 85% yield | ClC=1C=NC=C(C1CSC1=NC=CC(=N1)C)Cl | C11H9Cl2N3S
